US04778790
Ethyl 6-(1-t-butoxycarbonyl-4-piperidyl)-2-trifluoromethanesulfonyloxyhexanoate
0.85 ml of pyridine and 0.56 ml of trifluoromethanesulfonic acid anhydride were added, in that order, to a solution of 1.0 g of ethyl 6-(1-t-butoxycarbonyl-4-piperidyl)-2-hydroxyhexanoate in 10 ml of anhydrous methylene chloride, whilst cooling on an ice-salt bath, and the mixture was then stirred for 30 minuites. At the end of this time, 20 ml of a 1:1 by volume mixture of cyclohexane and ethyl acetate were added to the reaction mixture, the solution was poured onto a short column packed with silica gel, and eluted with a 1:1 volume mixture of cyclohexane and ethyl acetate. The fraction containing the title compound was concentrated by evaporation under reduced pressure, to give 0.50 g of the title compound as a syrupy substance.

reactant | pyridine | 0.85 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 0.56 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl 6-(1-t-butoxycarbonyl-4-piperidyl)-2-hydroxyhexanoate | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)O | C18H33NO5
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 6-(1-t-butoxycarbonyl-4-piperidyl)-2-trifluoromethanesulfonyloxyhexanoate | 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)OS(=O)(=O)C(F)(F)F | C19H32F3NO7S
